US05112998
The procedure of Example 36 was repeated except that 2.5 mg (0.005 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-7α-(N,N-dimethylcarbamoyloxy)-1α,2α-epoxypregn-5-en-3β-ol was used in lieu of 2.2 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregn-5-ene-3β,7α-diol to give 1.5 mg of 7α-(N,N-dimethylcarbamoyloxy)-1α,2α-epoxy-3β-hydroxypregn-5-ene-20-carbaldehyde (yield: 70%).

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-7α-(N,N-dimethylcarbamoyloxy)-1α,2α-epoxypregn-5-en-3β-ol | 0.005 mmole, 2.5 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H]([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)O)OC(N(C)C)=O)C | C30H47NO6
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregn-5-ene-3β,7α-diol | 2.2 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H]([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)O)O)C | C27H42O5
product | 7α-(N,N-dimethylcarbamoyloxy)-1α,2α-epoxy-3β-hydroxypregn-5-ene-20-carbaldehyde | 1.5 mg, yield: 70% | CN(C(=O)O[C@H]1[C@H]2[C@@H]3CC[C@H](C(C)C=O)[C@]3(CC[C@@H]2[C@]2([C@@H]3[C@H]([C@@H](CC2=C1)O)O3)C)C)C | C25H37NO5
